US06048885
A mixture of 1-bromo-2-(1-ethoxyethyl)oxymethylbenzene (12.96 g, 0.05 mol) and THF (45 ml) was added to a mixture of magnesium (1.82 g, 0.075 mol) and bromoethane (0.2 ml) and THF (5 ml) at 45 to 55° C. under an atmosphere of nitrogen gas, and the resulting mixture was stirred at 50 to 55° C. for 1 hour to prepare a Grignard reagent. The Grignard reagent was added dropwise to a mixture of N-methoxy-5, N-dimethyl-3-isoxazolcarboxamide (5.62 g, 0.033 mol) and THF (40 ml) cooled to -50° C. The mixture was stirred at -60° C. to room temperature for 1 hour, water (200 ml) was added, and the mixture was extracted with ether (200 ml). The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-(1-ethoxyethyl)oxymethylphenyl 5-methylisoxazol-3-yl ketone (8.61 g, yield: 90.2%) as a colorless oil.

reactant | 1-bromo-2-(1-ethoxyethyl)oxymethylbenzene | 0.05 mol, 12.96 g | BrC1=C(C=CC=C1)COC(C)OCC | C11H15BrO2
reactant | magnesium | 0.075 mol, 1.82 g | [Mg] | Mg
reactant | bromoethane | 0.2 ml | BrCC | C2H5Br
reactant | N-methoxy-5, N-dimethyl-3-isoxazolcarboxamide | 0.033 mol, 5.62 g | CON(C(=O)C1=NOC(=C1)C)C | C7H10N2O3
solvent | water | 200 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 2-(1-ethoxyethyl)oxymethylphenyl 5-methylisoxazol-3-yl ketone | 8.61 g, yield: 90.2% | CC1=CC(=NO1)C(=O)C1=C(C=CC=C1)COC(C)OCC | C16H19NO4
